* SPICE3 file created from inverter.ext - technology: sky130A

.subckt inverter vin vout vdd vss
X0 vout vin vss vss sky130_fd_pr__nfet_01v8 ad=5.5e+11p pd=3.1e+06u as=5.5e+11p ps=3.1e+06u w=1e+06u l=150000u
X1 vout vin vdd vdd sky130_fd_pr__pfet_01v8 ad=5.5e+11p pd=3.1e+06u as=5.5e+11p ps=3.1e+06u w=1e+06u l=150000u
.ends





